US05196539
Example 3: Preparation of N-(2-Benzoyloxyethyl)-pyridinium Tetraphenylborate
A solution of 17.11 grams (0.05 mol) of sodium tetraphenylborate in 50 milliters of water was added to a solution of 15.41 grams (0.05 mol) of N-(2-benzoyloxyethyl)pyridinium bromide prepared as described in Example 2, in 50 milliters of water. An additional 200 milliters of water was added and the mixture was stirred and allowed to stand for 1 hr. The mixture was diluted with more water and filtered. The solid collected was washed with water and dried. Recrystallization from acetonitrile gave 15.5 grams (56.62% of theory) of product; mp=135°-138° C.

reactant | sodium tetraphenylborate | 0.05 mol, 17.11 grams | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | N-(2-benzoyloxyethyl)pyridinium bromide | 0.05 mol, 15.41 grams | [Br-].C(C1=CC=CC=C1)(=O)OCC[N+]1=CC=CC=C1
solvent | water | O | H2O
product | N-(2-Benzoyloxyethyl)-pyridinium Tetraphenylborate | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C1=CC=CC=C1)(=O)OCC[N+]1=CC=CC=C1 | InChI=1S/C24H20B.C14H14NO2/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;16-14(13-7-3-1-4-8-13)17-12-11-15-9-5-2-6-10-15/h1-20H;1-10H,11-12H2/q-1;+1
